US04354034
Benzyl (2,5-dibromophenoxy)propionate (Compound No. 4)
2,5-Dibromophenol (53 g) and benzyl 2-bromopropionate (48.6 g) in methyl iso-butyl ketone (250 ml) containing suspended potassium carbonate (13.8 g) was heated under reflux with stirring overnight. The mixture was cooled to 40°, 5% sodium hydroxide solution (100 ml) was added, and the mixture was stirred to dissolve the solid potassium bromide. The aqueous phase was separated with fresh methyl iso-butyl ketone (50 ml). The combined extracts were washed with water (50 ml), dried, and evaporated under reduced pressure. The residue was distilled and the benzyl (2,5-dibromophenoxy)propionate collected at 180°-185°/0.5 Torr. On cooling, the distillate solidified and had a melting point of 52° C. Compounds 1, 5, 6, 14 to 16, 18 to 20, 22 and 23 were made by a similar procedure.

reactant | 2,5-Dibromophenol | 53 g | BrC1=C(C=C(C=C1)Br)O | C6H4Br2O
reactant | benzyl 2-bromopropionate | 48.6 g | BrC(C(=O)OCC1=CC=CC=C1)C | C10H11BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | potassium bromide | [Br-].[K+]
solvent | methyl iso-butyl ketone | 250 ml | C(C(C)C)C(=O)C | C6H12O
product | Benzyl (2,5-dibromophenoxy)propionate | BrC1=C(OC(C(=O)OCC2=CC=CC=C2)C)C=C(C=C1)Br | C16H14Br2O3
